US06093732
6-Amino-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinoline-carboxamide
N-[(4-chlorophenyl)methyl]-4-hydroxy-6-nitro-3-quinolinecarboxamide (500 mg) is suspended in 50 mL of freshly degassed dimethylformamide and treated with 0.5 mL of 50% Raney nickel in water (Aldrich). The mixture is agitated under 45 psi hydrogen pressure for 24 h, and then it is filtered through celite. The solvent is removed by evaporation at reduced pressure and the residue is suspended in 5 mL of absolute ethanol and it is collected by filtration. After drying at 0.1 torr/100 ° C./1.5 h, the product is obtained as 387 mg of a pale yellow powder.

reactant | N-[(4-chlorophenyl)methyl]-4-hydroxy-6-nitro-3-quinolinecarboxamide | 500 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC=C(C=C2C1O)[N+](=O)[O-] | C17H12ClN3O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.5 mL | [Ni] | Ni
solvent | water | O | H2O
product | 6-Amino-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinoline-carboxamide | 387 mg | NC=1C=C2C(=C(C=NC2=CC1)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H14ClN3O2
